US07964594B1
5-Fluoro-pyridine-2-carboxylic acid [3-((S)-2-amino-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The coupling of [(S)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester from experiment F1 (R3=Me) and 5-fluoro-pyridine-2-carboxylic acid followed by deprotection using procedure H yielded the title compound. MS (ESI): m/z=347.0 [M+H]+.

reactant | [(S)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1OCC[C@@](N1)(C)C1=C(C=CC(=C1)N)F)=O | C16H22FN3O3
reactant | 5-fluoro-pyridine-2-carboxylic acid | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
product | 5-Fluoro-pyridine-2-carboxylic acid [3-((S)-2-amino-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC[C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)F | C17H16F2N4O2
